US05457118
Ethyl 3-[3-(2-ethoxycarbonylethyl)-5-(3-pyridylmethyl)phenyl]propanoate
10% Palladium on charcoal catalyst (1.30 g) was added portionwise to a stirred mixture of ethyl 3-(2-ethoxycarbonyl-1-ethenyl)-5-(3-pyridylmethyl)cinnamate Preparation 13; 13.0 g), ammonium formate (22.44 g), ethanol (100 ml) and tetrahydrofuran (100 ml) at room temperature under an atmosphere of dry nitrogen. The mixture was heated at 60° C. for 2 hours, then cooled and filtered. The filtrate was evaporated under vacuum and the residue partitioned between dichloromethane and water. The aqueous layer was separated and extracted with dichloromethane. The organic solutions were combined, dried (MgSO4) and evaporated under vacuum to give the title compound as an oil (12.46 g); Rf 0.40 (SS 1); δ (CDCl3): 1.20(6H,t,J=7.1 Hz), 2.55(4H,t,J=7.8 Hz), 2.86(4H,t,J=7.8 Hz), 3.89(2H,s), 4.09(4H,q,J=7.1 Hz), 6.84(2H,s), 6.89(1H,s), 7.16-7.20(1 H,m), 7.41-7.45(1H,m), 8.43-8.47(1H,m).

reactant | ethyl 3-(2-ethoxycarbonyl-1-ethenyl)-5-(3-pyridylmethyl)cinnamate | C(C)OC(=O)C=CC=1C=C(C=CC(=O)OCC)C=C(C1)CC=1C=NC=CC1 | C22H23NO4
reactant | ammonium formate | 22.44 g | C(=O)[O-].[NH4+]
reactant | ethanol | 100 ml | C(C)O | C2H6O
catalyst | Palladium on charcoal | 1.30 g | [Pd] | Pd
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | Ethyl 3-[3-(2-ethoxycarbonylethyl)-5-(3-pyridylmethyl)phenyl]propanoate | 12.46 g | C(C)OC(=O)CCC=1C=C(C=C(C1)CC=1C=NC=CC1)CCC(=O)OCC | C22H27NO4
